US05753679
0.382 g (0.001825 mol) of 1-(2-fluoro-benzyl)-piperidin-4-ol and 0.512 ml (0.00365 mol) of triethylamine were dissolved in 10 ml of toluene, treated with 0.483 ml (0.00365 mol) of p-toluoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 0.48 g (80%) of 1-(2-fluoro-benzyl)-piperidin-4-yl 4-methyl-benzoate was obtained as a yellow oil. MS: me/e=328 (C20H23 FN02+).

reactant | 1-(2-fluoro-benzyl)-piperidin-4-ol | 0.001825 mol, 0.382 g | FC1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16FNO
reactant | triethylamine | 0.00365 mol, 0.512 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.00365 mol, 0.483 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-fluoro-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.48 g, 80% | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=C(C=CC=C2)F)C=C1 | C20H22FNO2
